US09193707B2
5. Synthesis of 2-[4-(aminomethyl)phenyl]quinazoline-4-carboxylic acid
Into a 500-mL round-bottom flask, was placed ethyl 2-[4-[(1,3-dioxo-2,3-dihydro-1H-isoindol-2-yl)methyl]phenyl]quinazoline-4-carboxylate (4 g, 9.14 mmol, 1.00 equiv), ethanol (40 mL) and 1N KOH (70 mL). The resulting solution was stirred for 24 h at 100° C. in an oil bath. The pH value of the solution was adjusted to 7 with acetic acid. The resulting mixture was concentrated under vacuum. This resulted in 2.6 g (crude) of 2-[4-(aminomethyl)phenyl]quinazoline-4-carboxylic acid as a white solid. MS (ESI) m/z 280 ([M+H]+).

reactant | ethyl 2-[4-[(1,3-dioxo-2,3-dihydro-1H-isoindol-2-yl)methyl]phenyl]quinazoline-4-carboxylate | 9.14 mmol, 4 g, 1.00 equiv | O=C1N(C(C2=CC=CC=C12)=O)CC1=CC=C(C=C1)C1=NC2=CC=CC=C2C(=N1)C(=O)OCC | C26H19N3O4
reactant | ethanol | 40 mL | C(C)O | C2H6O
reactant | KOH | 1N, 70 mL | [OH-].[K+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-[4-(aminomethyl)phenyl]quinazoline-4-carboxylic acid | NCC1=CC=C(C=C1)C1=NC2=CC=CC=C2C(=N1)C(=O)O | C16H13N3O2
